US04703096
Synthesis Of 4-Nitrophenylacetylene
4-Nitrophenyltrimethylsilylacetylene is reacted at ambient temperature for 3 hours with 3 g of potassium carbonate in 300 ml of methanol. The resulting reaction product mixture is poured into 1500 ml of distilled water to precipitate crude 4-nitrophenylacetylene product. The crude product is separated by filtration, washed with water, and dried in a vacuum oven at 50° C. and 1 Torr.

reactant | 4-Nitrophenyltrimethylsilylacetylene | [N+](=O)([O-])C1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13NO2Si
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1500 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 4-Nitrophenylacetylene | [N+](=O)([O-])C1=CC=C(C=C1)C#C | C8H5NO2
